US08420655B2
5-{1-tert-Butyl-2-[5-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine
To a mixture of 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine (25 mg, 0.10 mmol) and 5-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)-benzaldehyde (27 mg, 0.12 mmol) in DMF (5.0 mL) is added oxone (60 mg, 0.10 mmol) in H2O (2.0 mL). The reaction mixture is stirred at room temperature for 1.5 hours and then quenched with saturated sodium thiosulfate aq. (25 mL). The quenched reaction mixture is extracted with EtOAc (25 mL×2) and the combined organic layers are washed with H2O (50 mL×2) and dried with Na2SO4. The filtrate is concentrated under reduced pressure and the residue is purified by silica gel flash column chromatography with 5% MeOH in CH2Cl2 as the eluent to afford the title compound (30 mg, 45%) as a white solid. LCMS (ESMS): m/z 460.20 (M++1)

reactant | 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine | 0.10 mmol, 25 mg | NC1=NC=C(C=N1)C=1C=C(C(=CC1)NC(C)(C)C)N | C14H19N5
reactant | 5-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)-benzaldehyde | 0.12 mmol, 27 mg | ClC=1C=CC(=C(C=O)C1)C1=NC(=NO1)C | C10H7ClN2O2
reactant | oxone | 0.10 mmol, 60 mg | OOS(=O)[O-].[K+]
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | H2O | 2.0 mL | O | H2O
product | 5-{1-tert-Butyl-2-[5-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine | 30 mg, 45% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC(=NC2)N)C2=C(C=CC(=C2)Cl)C2=NC(=NO2)C | C24H22ClN7O
